US08314088B2
2-[benzyl({3-chloro-5-[(3R)-3-methylmorpholin-4-yl]pyrazin-2-yl}methyl)amino]ethanol
Sodium triacetoxyborohydride (1.37 g) was added to a solution of 3-chloro-5-[(3R)-3-methylmorpholin-4-yl]pyrazine-2-carbaldehyde (1.04 g), N-benzylethanolamine (0.78 g) and acetic acid (0.74 mL) in acetonitrile (20 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was basified with saturated aqueous sodium hydrogen carbonate, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by basic silica gel column chromatography (solvent gradient: 5→40% ethyl acetate/hexane) to give the title compound (1.65 g, quantitative) as a colorless oil.

reactant | Sodium triacetoxyborohydride | 1.37 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-chloro-5-[(3R)-3-methylmorpholin-4-yl]pyrazine-2-carbaldehyde | 1.04 g | ClC=1C(=NC=C(N1)N1[C@@H](COCC1)C)C=O | C10H12ClN3O2
reactant | N-benzylethanolamine | 0.78 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetic acid | 0.74 mL | C(C)(=O)O | C2H4O2
product | 2-[benzyl({3-chloro-5-[(3R)-3-methylmorpholin-4-yl]pyrazin-2-yl}methyl)amino]ethanol | 1.65 g | C(C1=CC=CC=C1)N(CCO)CC1=NC=C(N=C1Cl)N1[C@@H](COCC1)C | C19H25ClN4O2
